US08026110B2
Synthesis of 3-Amino-6-nitro-10H-acridin-9-one (S3, Y═NH)
The compound S3 (Y═NH) was prepared using 2-chloro-4-nitrobenzoic acid and 3′-aminoacetanilide in the same way as S3 (Y═O). 1H-NMR (DMSO-d6) δ 11.54 (s, 1H), 8.32 (d, J=8.8, 1H), 8.26 (d, J=2.0, 1H), 7.92 (d, J=8.8, 1H), 7.86 (d, J=2.0, 8.4, 1H), 6.60 (dd, J=2.0, 8.8, 1H), 6.43 (d, J=2.0, 1H), 6.36 (bs, 2H). ESI-MS m/z (M+H) calc'd: 256.1. found 256.1.

reactant | 2-chloro-4-nitrobenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 3′-aminoacetanilide | NC=1C=C(NC(C)=O)C=CC1 | C8H10N2O
product | 3-Amino-6-nitro-10H-acridin-9-one | NC=1C=CC=2C(C3=CC=C(C=C3NC2C1)[N+](=O)[O-])=O | C13H9N3O3
